US08859549B2
4-(benzylthio)phthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1(2H)-one (500 mg, 2.77 mmol), phenylmethanethiol (412 mg, 3.32 mmol) and sodium hydride (144 mg, 3.6 mmol) in DMF (30 mL) was stirred at 125 C for 2 hours. The reaction mixture was quenched with water, and extracted with EtOAc (2×). The combined organic layer was washed with water, and concentrated to give 456 mg (61%) of title compound. MS (APCI+) M/Z 269 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | 2.77 mmol, 500 mg | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | phenylmethanethiol | 3.32 mmol, 412 mg | C1(=CC=CC=C1)CS | C7H8S
reactant | sodium hydride | 3.6 mmol, 144 mg | [H-].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-(benzylthio)phthalazin-1(2H)-one | 456 mg, 61% | C(C1=CC=CC=C1)SC1=NNC(C2=CC=CC=C12)=O | C15H12N2OS
